US07355077B2
Preparation of METHYL 3-(2-BENZYLOXY-5-METHYLPHENYL)-3-PHENYLPROPIONATE (Formula III)
675 g of 6-methyl-4 phenyl-3,4-dihydrocoumarin, 372 ml of benzyl bromide, and 513 g of potassium carbonate were charged into a round bottom flask containing a mixture of 2025 ml of acetone and 2025 ml of methanol. The contents were heated to reflux temperature for about 2-3 hours. Distilled off the solvent from the reaction mass at atmospheric conditions below 75° C. then under vacuum (about 600 mm Hg) at below 85° C. 6750 ml of water was added to the residue and stirred for 15 minutes for dissolution. Extracted the solution twice with ethyl acetate (4000 ml). Combined organic layers were washed with water (2×3375 ml) and distilled the solvent under vacuum (about 600 mm Hg) at below 85° C. 2025 ml of methanol was added to the residue at 50-55° C., then stirred the solution at 0-5° C. for about 2 hours. Filtered the formed solid and washed with 675 ml of methanol. Dried the solid at 50-55° C. for about 2-3 hours under vacuum (about 600 mm/Hg) to get 850 g of the title compound.

reactant | 6-methyl-4 phenyl-3,4-dihydrocoumarin | 675 g | CC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C16H14O2
reactant | benzyl bromide | 372 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 513 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 2025 ml | CC(=O)C | C3H6O
solvent | methanol | 2025 ml | CO | CH4O
product | METHYL 3-(2-BENZYLOXY-5-METHYLPHENYL)-3-PHENYLPROPIONATE | 850 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C(CC(=O)OC)C1=CC=CC=C1 | C24H24O3
